US06307047B1
2-(3,4-Difluorophenyl)-4-(2-methylpropoxy)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared according to the method of Example 384, substituting 2-(3,4-difluorophenyl)-4-(2-methylpropoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone in place of 2-benzyl-4-(4-fluorophenyl)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (yield: 35 mg, 42%). mp 169-171° C. 1H NMR (300 MHz, DMSO-d6) δ 0.78 (d, 6H), 1.84, (m, 1H), 4.2 (d, 2H), 7.54 (m, 3H), 7.6 (m, 1H), 7.82 (m, 3H), 7.91 (d, 2H), 8.21 (s, 1H). MS (DCI/NH3) m/z 436 (M+H)+, 453 (M+NH4)+. Anal. calc. for C20H19F2N3O4S.0.25 H2O: C, 55.17; H, 4.40; N, 9.65. Found: C, 54.19; H, 4.25; N, 9.35

reactant | 2-(3,4-difluorophenyl)-4-(2-methylpropoxy)-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCC(C)C)C1=CC=C(C=C1)S(=O)(=O)C | C21H20F2N2O4S
reactant | NH3 | N | H3N
solvent | H2O | O | H2O
product | 2-(3,4-Difluorophenyl)-4-(2-methylpropoxy)-5-[4-(aminosulfonyl)phenyl]-3(2H)-pyridazinone | FC=1C=C(C=CC1F)N1N=CC(=C(C1=O)OCC(C)C)C1=CC=C(C=C1)S(=O)(=O)N | C20H19F2N3O4S
